US05447657
0.52 g of potassium t-butylate was added to a suspension of 1.60 g of (methoxymethyl)triphenylphosphonium chloride in 40 ml of t-butyl methyl ether in a nitrogen atmosphere and the orange-red suspension was stirred at room temperature for 0.5 hour. A solution of 1.11 g of 4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanone in 30 ml of tetrahydrofuran was then added dropwise at 5° C. The reaction mixture was stirred at 5° C. for a further 0.5 hour and at room temperature for 2 hours, diluted with diethyl ether, washed with 50 ml of saturated sodium hydrogen carbonate solution and with 50 ml of saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 19:1) yielded 0.95 g of 4'-fluoro-4-[[4-(methoxymethylidene)cyclohexyl]ethynyl]biphenyl.

reactant | (methoxymethyl)triphenylphosphonium chloride | 1.60 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanone | 1.11 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC1CCC(CC1)=O | C20H17FO
reactant | t-butyl methyl ether | 40 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4'-fluoro-4-[[4-(methoxymethylidene)cyclohexyl]ethynyl]biphenyl | 0.95 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC1CCC(CC1)=COC | C22H21FO
